US07238716B2
To a mixture of 3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyl alcohol (4.00 g), 2-chloro-3-cyanopyridine (1.62 g) and N,N-dimethylformamide (40 mL) was added sodium hydride (60%, oil, 515 mg) under ice-cooling. The reaction mixture was stirred at room temperature for 15 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained crystals were recrystallized from ethyl acetate-hexane to give 2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinonitrile as pale-yellow crystals (4.50 g, 90%). melting point: 117-118° C.

reactant | 3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyl alcohol | 4.00 g | COC=1C=C(CO)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H19NO4
reactant | 2-chloro-3-cyanopyridine | 1.62 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 515 mg | [H-].[Na+]
solvent | Water | O | H2O
product | 2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]nicotinonitrile | 4.50 g, 90% | COC=1C=C(COC2=C(C#N)C=CC=N2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H21N3O4
